US05661169
1-Bromomethyl-3-methoxy-4-nitrobenzene
A mixture of 20 g of 3-methoxy-4-nitrotoluene, 21.6 g of N-bromosuccinimide and 0.3 g of dibenzoyl peroxide in 120 ml of CCl4 is heated at reflux for 5 hours. The solvent is evaporated off under vacuum, the residue is taken up in water, extracted with DCM, washed with water, dried over Na2SO4 and evaporated under vacuum. 11.35 g of the expected product are obtained after crystallization from EtOH, mp=98° C.

reactant | 3-methoxy-4-nitrotoluene | 20 g | COC=1C=C(C=CC1[N+](=O)[O-])C | C8H9NO3
reactant | N-bromosuccinimide | 21.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 120 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 0.3 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 1-Bromomethyl-3-methoxy-4-nitrobenzene | 11.35 g | BrCC1=CC(=C(C=C1)[N+](=O)[O-])OC | C8H8BrNO3
